US06562807B2
(R)-3-{4-[3-[3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexyl-phenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid methyl ester (24 mg, 0.032 mmol) was dissolved in ethanol (1 mL) and sodium hydroxide (0.05 mL, 019 mmol) was added. The reaction mixture was stirred for 2 hours and concentrated to remove the ethanol. The residue was diluted with water (10 mL), acidified with hydrochloric acid (4 N, 0.3 mL) and extracted with ethyl acetate (2×10 mL). The combined organic phases were washed with water (3×10 mL) and dried with magnesium sulphate and concentrated in vacuo to give 17 mg of (R)-3-{4-[3-[3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid.

reactant | (R)-3-{4-[3-[3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexyl-phenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid methyl ester | 0.032 mmol, 24 mg | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=C(C=C1)OC(F)(F)F)CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C1CCCCC1)=O)O)=O | C39H50F3N3O7Si
reactant | sodium hydroxide | 0.05 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (R)-3-{4-[3-[3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid | 17 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1OC(F)(F)F)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)=O | C38H48F3N3O7Si
